Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Laparoscopic Appendectomy 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of obesity 
(BMI 37.7), HTN, anxiety, presenting with RLQ abdominal pain, 
WBC 13.6, CT scan concerning for acute appendicitis. Patient had 
abdominal pain starting this AM, initially periumbilical then 
localized to the RLQ. She denies fevers/chills, nausea/vomiting. 
She has had a poor appetite. She presented to the ED today for 
evaluation of these symptoms with workup showing a WBC 13.6, and 
CT abd/pelvis showing a dilated appendix with mild 
periappendiceal stranding consistent with appendicitis, without 
abscess or evidence of perforation, no appendicolith. 
 
Past Medical History:
Past Medical History:
Obesity (BMI 37.7), HTN, anxiety, acne

Past Surgical History:
No prior abdominal surgeries
 
Social History:
___
Family History:
Family History:
Non-Contributory
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
Vitals - T 98.8; BP 145/69; HR 81; RR 16; SPO2 99%RA  
GEN - Well appearing, no acute distress
HEENT - NCAT, EOMI, sclera anicteric
CV - HDS
PULM - No signs of respiratory distress. 
ABD - soft, mild focal tenderness at RLQ, no rebound or 
guarding. Negative psoas sign. 
EXT - Warm, well-perfused
NEURO - A&Ox3, no focal neurologic deficits

PHYSICAL EXAM ON DISCHARGE:
VS: 98.2, 131/72, 71, 18, 100% Ra 
Gen: NAD, AxOx3
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Wounds: c/d/i
Ext: No edema, warm well-perfused

 
Pertinent Results:
CT ABD & PELVIS WITH CONTRASTStudy Date of ___
Dilated appendix with mild periappendiceal stranding consistent 
with acute uncomplicated appendicitis (601:22).  There is no 
adjacent fluid collection or convincing evidence of perforation.

___ 05:48AM BLOOD WBC-11.3* RBC-3.84* Hgb-11.4 Hct-34.9 
MCV-91 MCH-29.7 MCHC-32.7 RDW-12.9 RDWSD-42.8 Plt ___
___ 05:30PM BLOOD WBC-6.9 RBC-3.94 Hgb-11.6 Hct-35.6 MCV-90 
MCH-29.4 MCHC-32.6 RDW-13.0 RDWSD-42.7 Plt ___
___ 09:28AM BLOOD WBC-7.9 RBC-4.07 Hgb-11.9 Hct-36.1 MCV-89 
MCH-29.2 MCHC-33.0 RDW-13.2 RDWSD-42.7 Plt ___
___ 07:25PM BLOOD WBC-13.6* RBC-4.65 Hgb-13.7 Hct-40.9 
MCV-88 MCH-29.5 MCHC-33.5 RDW-12.8 RDWSD-40.7 Plt ___
___ 07:25PM BLOOD Neuts-74.3* Lymphs-17.5* Monos-7.7 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.08* AbsLymp-2.37 
AbsMono-1.04* AbsEos-0.02* AbsBaso-0.03
___ 07:25PM BLOOD ___ PTT-33.2 ___
___ 05:30PM BLOOD Glucose-74 UreaN-9 Creat-0.8 Na-140 K-4.1 
Cl-104 HCO3-23 AnGap-13
___ 09:28AM BLOOD Glucose-82 UreaN-11 Creat-0.8 Na-140 
K-4.0 Cl-105 HCO3-21* AnGap-14
___ 07:25PM BLOOD Glucose-81 UreaN-14 Creat-0.9 Na-139 
K-4.1 Cl-102 HCO3-21* AnGap-16
___ 07:25PM BLOOD ALT-15 AST-23 AlkPhos-46 TotBili-0.6
___ 07:25PM BLOOD Lipase-45
___ 05:30PM BLOOD Calcium-9.3 Phos-4.0 Mg-2.2
___ 09:28AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.9
___ 07:25PM BLOOD Albumin-5.1
___ 07:25PM BLOOD Lactate-1.4
 
Brief Hospital Course:
Patient is a ___ year old female with pmh significant for acne 
and anxiety. Patient presented to the emergency department with 
complaints of abdominal pain. Imaging was completed which 
demonstrated acute appendicitis. She initially requested 
non-operative management, therefore she was treated with 
antibiotics and bowel rest, however, later in the day on ___ 
she requested surgical intervention. 

She was then consented and taken to the operating room and 
underwent laparoscopic appendectomy on ___. (Please see 
operative report for details of this procedure). She tolerated 
the procedure well, was extubated upon completion, and was 
subsequently taken to the PACU for recovery.

Once pain was well controlled, and the patient experienced a 
return of bowel function, their diet was advanced as tolerated. 
During this hospitalization, the patient voided without 
difficulty and ambulated early and frequently. The patient was 
adherent with respiratory toilet and incentive spirometry and 
actively participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well. She was 
afebrile and her vital signs were stable.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and her pain was well controlled.  The patient was 
discharged home without services and follow up care was 
arranged. Discharge teaching was completed and follow-up 
instructions were reviewed with reported understanding and 
agreement.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. erythromycin with ethanol 2 % topical Other 
2. Tretinoin 0.05% Cream 1 Appl TP QHS 
3. Spironolactone 100 mg PO BID 
4. Cetirizine 10 mg PO DAILY 
5. Escitalopram Oxalate 25 mg PO DAILY 
6. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
please limit to 4000mg in 24 hour period.  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Please limit to 3000mg in 24 hour period.  
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Medication may cause drowsiness 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 
4.  Cetirizine 10 mg PO DAILY  
5.  erythromycin with ethanol 2 % topical Other  
6.  Escitalopram Oxalate 25 mg PO DAILY  
7.  Spironolactone 100 mg PO BID  
8.  TraZODone 50 mg PO QHS:PRN insomnia  
9.  Tretinoin 0.05% Cream 1 Appl TP QHS  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation of abdominal pain and were found to have acute 
appendicitis. You were treated with antibiotics and then taken 
to the operating room and underwent removal of your appendix 
laparoscopically. You are recovering well and are now ready for 
discharge. Please follow the instructions below to continue your 
recovery:

General Surgery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___